US04331683
trans-N-(1-Methyldecyl)-2-(4-aminophenyl)cyclopropanecarboxamide
The title compound was prepared in essentially quantitative yield by reducing trans-N-(1-methyldecyl)-2-(4-nitrophenyl)cyclopropanecarboxamide with iron powder in glacial acetic acid, in a manner analogous to Preparation 34.

reactant | trans-N-(1-methyldecyl)-2-(4-nitrophenyl)cyclopropanecarboxamide | CC(CCCCCCCCC)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)[N+](=O)[O-] | C21H32N2O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | iron | [Fe] | Fe
product | trans-N-(1-Methyldecyl)-2-(4-aminophenyl)cyclopropanecarboxamide | quantitative yield | CC(CCCCCCCCC)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)N | C21H34N2O
